US06855715B1
Methyl 1-acetyl-3-formylindole-6-carboxylate
A suspension of methyl 3-formylindole-6-carboxylate (1 g, 4.93 mmol) in acetic anhydride (10 ml) was refluxed for 2 h.

reactant | methyl 3-formylindole-6-carboxylate | 4.93 mmol, 1 g | C(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C11H9NO3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 1-acetyl-3-formylindole-6-carboxylate | C(C)(=O)N1C=C(C2=CC=C(C=C12)C(=O)OC)C=O | C13H11NO4
